US05643878
c) 5(S)-(Boc-amino)-4(S)-hydroxy-6-cyclohexyl-2(R)-(4-benzyloxybenzyl)-hexanoic acid
Analogously to Example 1 i), 2.4 g (4.728 mmol) of 5(S)-[1(S)-(Boc-amino)-2-cyclohexylethyl]-3(R)-(4-benzyloxybenzyl)-dihydrofuran-2-(3H)-one in 10 ml of 1,2-di-methoxyethane are reacted with 9.45 ml of 1M LiOH solution to yield the title compound, which is purified by crystallisation from hexane. TLC Rf (E)=0.33; tRet (IV)=18 min; FAB-MS (M+H+)=526.

reactant | 5(S)-[1(S)-(Boc-amino)-2-cyclohexylethyl]-3(R)-(4-benzyloxybenzyl)-dihydrofuran-2-(3H)-one | 4.728 mmol, 2.4 g | C(=O)(OC(C)(C)C)N[C@@H](CC1CCCCC1)[C@@H]1C[C@H](C(O1)=O)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C31H41NO5
reactant | LiOH | 1M, 9.45 ml | [Li+].[OH-]
solvent | 1,2-di-methoxyethane | 10 ml | COCCOC | C4H10O2
product | 5(S)-(Boc-amino)-4(S)-hydroxy-6-cyclohexyl-2(R)-(4-benzyloxybenzyl)-hexanoic acid | C(=O)(OC(C)(C)C)N[C@H]([C@H](C[C@H](C(=O)O)CC1=CC=C(C=C1)OCC1=CC=CC=C1)O)CC1CCCCC1 | C31H43NO6
